US05744643
Preparation of 3-aminostyrene
A degassed solution of 40 mmol of 3-nitrostyrene (starting material) and 40ml of xylene are placed in an autoclave (volume: 200 ml). 2.0 mmol of BINAS(in the form of 11.56 g of an aqueous solution containing 0.173 mol of BINAS/kg of solution) as phosphine and 1.92 g (48 mmol) of NaOH, 23 ml of H2O and 0.8 mmol of PdCl2 are added. The pH is from 10.0 to 10.5.

reactant | 3-nitrostyrene | 40 mmol | [N+](=O)([O-])C=1C=C(C=C)C=CC1 | C8H7NO2
reactant | xylene | 40ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | phosphine | P | H3P
reactant | NaOH | 48 mmol, 1.92 g | [OH-].[Na+]
catalyst | PdCl2 | 0.8 mmol | Cl[Pd]Cl
solvent | H2O | 23 ml | O | H2O
product | 3-aminostyrene | NC=1C=C(C=C)C=CC1 | C8H9N
